US04338327
A mixture of 13 parts of powdered potassium hydroxide (85% purity), 15 parts of 1H-1,2,4-triazole and 165 parts of dimethylsulfoxide is heated at 80° C. for 1 hour. 58 Parts of 2-(2,4-dichlorophenyl)-2-(bromomethyl)-4-(methoxymethyl)-1,3-dioxolane are added and the whole is heated at 150° C. for 12 hours. The reaction mixture is poured onto 1000 parts of water. The product is extracted with 1,1'-oxybisethane. The extract is dried, filtered and evaporated. The residue is distilled under high vacuum yielding pure 1-[2-(2,4-dichlorophenyl)-4-(methoxymethyl)-1,3-dioxolan-2-ylmethyl]-1H-1,2,4-triazole; bp. 161°-168° C. at 0.01 mm. pressure. The product crystallizes on standing, yielding a solid having a melting point of 64°-74° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 2-(2,4-dichlorophenyl)-2-(bromomethyl)-4-(methoxymethyl)-1,3-dioxolane | ClC1=C(C=CC(=C1)Cl)C1(OCC(O1)COC)CBr | C12H13BrCl2O3
solvent | water | O | H2O
product | 1-[2-(2,4-dichlorophenyl)-4-(methoxymethyl)-1,3-dioxolan-2-ylmethyl]-1H-1,2,4-triazole | ClC1=C(C=CC(=C1)Cl)C1(OCC(O1)COC)CN1N=CN=C1 | C14H15Cl2N3O3
